US07115589B2
{Ethoxy-[4-(2-iodo-9-isopropyl-9H-purin-6-ylamino)-phenyl]-phosphinoylmethyl}-phosphonic Acid Diethyl Ester:
6-Chloro-2-iodo-9-isopropyl-9H-purine (1.7 g, 5.2 mmol), [(4-amino-phenyl)-ethoxy-phosphinoylmethyl]-phosphonic acid diethyl ester (2.6 g, 7.7 mmol), and DIPEA (2.7 mL, 15.5 mmol) were dissolved in EtOH (27 mL) and heated in a sealed tube at 105° C. for 48 h. After cooling, the EtOH was evaporated. The residue was poured into water and extracted with EtOAc. The combined extracts, were washed with water, sat'd NaCl, then dried over MgSO4 and filtered. Concentration yielded an oil which was purified by silica gel chromatography (11% MeOH/EtOAc) to a glassy solid (1.8 g, 53%): MS [M+H]+ 621.

reactant | 6-Chloro-2-iodo-9-isopropyl-9H-purine | 5.2 mmol, 1.7 g | ClC1=C2N=CN(C2=NC(=N1)I)C(C)C | C8H8ClIN4
reactant | [(4-amino-phenyl)-ethoxy-phosphinoylmethyl]-phosphonic acid diethyl ester | 7.7 mmol, 2.6 g | C(C)OP(OCC)(=O)C([PH2]=O)(OCC)C1=CC=C(C=C1)N | C13H23NO5P2
reactant | DIPEA | 15.5 mmol, 2.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 27 mL | CCO | C2H6O
product | {Ethoxy-[4-(2-iodo-9-isopropyl-9H-purin-6-ylamino)-phenyl]-phosphinoylmethyl}-phosphonic Acid Diethyl Ester | C(C)OP(OCC)(=O)C([PH2]=O)(C1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)I)C(C)C)OCC | C21H30IN5O5P2
